US06462038B1
This compound was prepared by General Method 10 (EXAMPLE 19) from (2-methoxy-4-nitrophenyl)-(4-methoxybenzyl)amine (1.92 g, 6.65 mmol), zinc dust (1.87 g, 28.6 mmol), and calcium chloride dihydrate (2.10 g, 14.3 mmol) in 350 mL 95:5 EtOH:water to afford 1.23 g (70%) of (4-amino-2-methoxyphenyl)-(4-methoxybenzyl)amine, a light purple solid, after flash chromatography (CH2Cl2:MeOH 19:1). Data for (4-amino-2-methoxyphenyl)-(4-methoxybenzyl)amine: Rf 0.80 (19:1 CH2Cl2:MeOH); 1H NMR (400 MHz, CDCl3) δ 7.30 (d, 2H, J=8.6), 6.87 (d, 2H, J=8.6), 6.47 (d, 1H, J=8.1), 6.28 (d, 1H, J=2.4), 6.23 (dd, 1H, J=8.1, 2.4), 4.20 (s, 2H), 4.10 (v broad s, 1H), 3.80 (s, 3H), 3.79 (s, 3H), 3.31 (broad s, 2H).

reactant | (2-methoxy-4-nitrophenyl)-(4-methoxybenzyl)amine | 6.65 mmol, 1.92 g | COC1=C(C=CC(=C1)[N+](=O)[O-])NCC1=CC=C(C=C1)OC | C15H16N2O4
reactant | calcium chloride dihydrate | 14.3 mmol, 2.10 g | O.O.[Cl-].[Ca+2].[Cl-]
reactant | EtOH | CCO | C2H6O
catalyst | zinc | 28.6 mmol, 1.87 g | [Zn] | Zn
solvent | water | O | H2O
product | (4-amino-2-methoxyphenyl)-(4-methoxybenzyl)amine | 1.23 g, 70% | NC1=CC(=C(C=C1)NCC1=CC=C(C=C1)OC)OC | C15H18N2O2
